US06743795B1
Preparation of 2-(1H-5-indazolylamino)-6-methoxy-3-nitropyridine
To the solution of 2-chloro-6-methoxy-3-nitropyridine (5 g) and 5-aminoindazole (3.7 g) in methanol (60 ml) was added triethylamine (4.1 ml), and then the solution was reacted at 25-30° C. for 5 hr. The reaction mixture was cooled at room temperature with slowly adding H2O (30 ml), and then stirred for 0.5 hr. The reaction mixture was filtered, washed with methanol (10 ml), obtained a solid product. The solid product was dried at 50° C. in vacuo to obtain the desired compound (6.5 g, 86%).

reactant | 2-chloro-6-methoxy-3-nitropyridine | 5 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | 5-aminoindazole | 3.7 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | triethylamine | 4.1 ml | C(C)N(CC)CC | C6H15N
reactant | H2O | 30 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | 2-(1H-5-indazolylamino)-6-methoxy-3-nitropyridine | 6.5 g, 86% | N1N=CC2=CC(=CC=C12)NC1=NC(=CC=C1[N+](=O)[O-])OC | C13H11N5O3
